US09290451B2
Methyl 2-(6-(2-chlorophenyl)picolinamido)-2-methylpropanoate
The title compound was synthesized in analogy to Example 1, using 6-(2-chlorophenyl)-2-pyridinecarboxylic acid (CAN 887982-21-0) and 2-methyl-alanine methyl ester as starting materials, MS (LC/MS): 333.1 (M+H).

reactant | 6-(2-chlorophenyl)-2-pyridinecarboxylic acid | ClC1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | 2-methyl-alanine methyl ester | COC(C(N)(C)C)=O | C5H11NO2
product | Methyl 2-(6-(2-chlorophenyl)picolinamido)-2-methylpropanoate | ClC1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)NC(C(=O)OC)(C)C | C17H17ClN2O3
